US07696200B2
A mixture of 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene-7-carboxylic acid ethyl ester (124 mg, 0.30 mmol) in tetrahydrofuran (0.6 mL) and 1 M aq. potassium hydroxide solution (0.60 mL, 0.60 mmol) was stirred at 50° C. over 72 h. Evaporation of volatile material furnished 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene-7-carboxylic acid potassium salt (116 mg), which was directly used in the next step. Light yellow solid, MS (ISP)=383.1 (M−K)−.

reactant | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene-7-carboxylic acid ethyl ester | 0.30 mmol, 124 mg | C(C)OC(=O)C1=CN=C2OCCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C17H17ClN2O6S
reactant | potassium hydroxide | 0.60 mmol, 1 M, 0.60 mL | [OH-].[K+]
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
product | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene-7-carboxylic acid potassium salt | 116 mg | [K+].ClC=1C=CC(=C(C1)S(=O)(=O)N1CCOC2=NC=C(C=C12)C(=O)[O-])OC | InChI=1S/C15H13ClN2O6S.K/c1-23-12-3-2-10(16)7-13(12)25(21,22)18-4-5-24-14-11(18)6-9(8-17-14)15(19)20;/h2-3,6-8H,4-5H2,1H3,(H,19,20);/q;+1/p-1
